US04386099
N-t.Butyl-N'-[4-(imidazol-4-yl)-phenyl]-formamidine
A mixture of 2.3 gm of 4-(p-aminophenyl)-1-H-imidazole, 1.25 gm of t-butylisonitrile, 0.2 gm of AgCl, and 0.11 gm of imidazole was heated at 100° C. for 13 hours. The thick reaction mixture was treated with 10% HCl and ethyl acetate. The acid solution was adjusted to pH 6.5 with 10% NaOH, treated with charcoal, filtered, and adjusted to an alkaline pH. The layer which separated was extracted with ethyl acetate. After drying, the organic solution was evaporated to dryness to yield 0.38 gm of the desired compound.

reactant | 4-(p-aminophenyl)-1-H-imidazole | 2.3 gm | NC1=CC=C(C=C1)C=1N=CNC1 | C9H9N3
reactant | t-butylisonitrile | 1.25 gm | C(C)(C)(C)[N+]#[C-] | C5H9N
reactant | imidazole | 0.11 gm | N1C=NC=C1 | C3H4N2
reactant | HCl | Cl | ClH
reactant | NaOH | [OH-].[Na+]
reactant | charcoal | C | CH4
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Butyl-N'-[4-(imidazol-4-yl)-phenyl]-formamidine | 0.38 gm | C(CCC)C(=NC1=CC=C(C=C1)C=1N=CNC1)N | C14H18N4
